US06897231B2
A. 1-(5-(1H-1,2,4-Triazol-5-yl)(1H-indazol-3-yl))-4-(methylsulfinyl)benzene
A mixture of 4-methylthio-1-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}benzene (136 mg, 0.214 mmol), 1.00 mL CH2Cl2, and 3-chloroperoxybenzoic acid (Aldrich, 77% purity, 48.1 mg, 0.214 mmol based on 77% purity, 1.00 equiv.) was stirred at room temperature for 30 minutes. The reaction was diluted with EtOAc, washed with 2× sat. aq. NaHCO3, dried (Na2SO4), filtered, and concentrated. The crude concentrate was heated in 5.00 mL of MeOH and 5.00 mL of 6.0 N aq. HCl at 65° C. for 17.5 h. The mixture was poured onto 6.0 N aq. NaOH and extracted with 2×EtOAc. The aqueous layer was neutralized to pH=6.0 with 6.0 N aq. HCl, and extracted with 2×EtOAc. The combined organics were dried (Na2SO4), filtered, and concentrated. Purification by prep HPLC afforded the title compound (7.2 mg, 10.4% yield): 1H NMR (CDCl3/CD3OD) δ 8.78 (s, 1H), 8.45-7.98 (m, 4H), 7.86 (d, 2H), 7.72 (d, 1H), 2.89 (s, 3H); ES-MS (m/z) 324 [M+1]4.

reactant | 4-methylthio-1-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}benzene | 0.214 mmol, 136 mg | CSC1=CC=C(C=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1 | C40H35N5OS
reactant | CH2Cl2 | 1.00 mL | C(Cl)Cl | CH2Cl2
reactant | 3-chloroperoxybenzoic acid | 0.214 mmol, 48.1 mg, 1.00 equiv. | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(5-(1H-1,2,4-Triazol-5-yl)(1H-indazol-3-yl))-4-(methylsulfinyl)benzene | 7.2 mg, 10.4% yield | N1N=CN=C1C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)S(=O)C | C16H13N5OS
